US08536210B2
Step 2: 2-(4-Methoxybenzyl)-5-morpholinopyridazin-3(2H)-one
To a mixture of 4-chloro-2-(4-methoxybenzyl)-5-(morpholin-4-yl)pyridazin-3(2H)-one (8.56 g, 25.50 mmol) and 10% Pd/C catalyst (1.45 g) in methanol (105 ml) was added ammonium formate (3.70 g, 58.7 mmol), and the mixture was refluxed under argon with TLC monitoring (ethyl acetate). Further portions of ammonium formate were added until the starting material was completely consumed. The catalyst was filtered off and washed with methanol, then the solvent was evaporated under reduced pressure. The residue was taken up in water (30 ml) and extracted with dichloromethane (4×40 ml). The combined extracts were washed with water, dried (Na2SO4) and evaporated. The crude product was purified by crystallization from ethanol (95%).

reactant | 4-chloro-2-(4-methoxybenzyl)-5-(morpholin-4-yl)pyridazin-3(2H)-one | 25.50 mmol, 8.56 g | ClC=1C(N(N=CC1N1CCOCC1)CC1=CC=C(C=C1)OC)=O | C16H18ClN3O3
reactant | ammonium formate | 58.7 mmol, 3.70 g | C(=O)[O-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.45 g | [Pd] | Pd
solvent | methanol | 105 ml | CO | CH4O
product | 2-(4-Methoxybenzyl)-5-morpholinopyridazin-3(2H)-one | COC1=CC=C(CN2N=CC(=CC2=O)N2CCOCC2)C=C1 | C16H19N3O3
